US07034052B2
To (1S)-7-amino-4-chloro-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one (800 mg, 1.82 mmol) was added dimethylcarbamyl chloride (3 ml). The mixture was heated at 100° C. for 20 hrs. The reaction mixture was cooled to room temperature and extracted with water (50 ml) and EtOAc (50 ml). The organic layer was washed with water (50 ml), brine (25 ml), dried over Na2SO4 and concentrated. The resulted oil was purified by chromatography to give (1S)-3-{7-chloro-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-1, 1-dimethyl-urea as a white solid (600 mg, 70% yield): mp, 205–207° C.; 1H NMR (CDCl3) δ 1.47 (t, J=7.0 Hz, 3H, OCH2CH3), 2.94 (s, 3H, CH3), 3.11 (s, 6H, N(CH3)2), 3.72 (dd, J=5, 15 Hz, 1H, CHHSO2), 3.88 (s, 3H, CH3), 4.05–4.22 (m, 4H, CHHSO2+CHHN+OCH2CH3), 4.40 (d, J=10 Hz, 1H, CHHN), 5.73–5.79 (m, 1H, NCH), 6.86–6.96 (m, 3H, Ar), 7.36 (d, J=9 Hz, 1H, Ar), 8.35 (d, J=9 Hz, 1H, Ar), 9.77 (s, 1H, NHCO); 13C NMR (CDCl3) δ 14.68, 36.27, 41.51, 46.96, 51.47, 55.73, 55.97, 64.64, 111.64, 111.67, 112.28, 118.20, 118.54, 119.31, 120.08, 129.13, 133.24, 138.58, 138.77, 148.94, 149.88, 155.01, 169.72. Anal Calcd for C23H28ClN3O6S: C, 54.32; H, 5.65; N, 8.12. Found: C, 54.16; H, 5.42; N, 7.82.

reactant | (1S)-7-amino-4-chloro-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one | 1.82 mmol, 800 mg | NC=1C=CC(=C2CN(C(C12)=O)[C@H](CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)Cl | C20H23ClN2O5S
reactant | dimethylcarbamyl chloride | 3 ml | CN(C(=O)Cl)C | C3H6ClNO
product | (1S)-3-{7-chloro-2-[1-(3-ethoxy-4-methoxy-phenyl)-2-methanesulfonyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-1, 1-dimethyl-urea | 600 mg, 70% yield | ClC=1C=CC(=C2C(N(CC12)[C@H](CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O)NC(N(C)C)=O | C23H28ClN3O6S
